US07625903B2
(3S)-1-({2-[(5-methyl-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]phenyl}carbonyl)-3-pyrrolidinol
Ethyl 2-[(5-methyl-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate (120 mg., 0.27 mmol) and (S)-(+)-3-pyrrolidinol (0.65 mL, used as solvent) were combined in a vessel, which was sealed and heated with stirring at 125° C. for 18 h. The reaction was cooled to room temperature and evaporated. The residue was partitioned between ethyl acetate (10 mL) and water (10 mL). The organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified using normal phase HPLC eluting with a gradient of dichloromethane/methanol/ammonium hydroxide (90:10:0-90:10:1) affording the title compound as an off-white solid; yield 98 mg. (75%). MS: M(C27H33N7O2)=487.60, (M+H)+=488.2.

reactant | Ethyl 2-[(5-methyl-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate | 0.27 mmol, 120 mg | CC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C(=O)OCC)C=CC=C1 | C25H30N6O2
reactant | (S)-(+)-3-pyrrolidinol | 0.65 mL | N1C[C@H](CC1)O | C4H9NO
product | (3S)-1-({2-[(5-methyl-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]phenyl}carbonyl)-3-pyrrolidinol | CC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C=CC=C1)C(=O)N1C[C@H](CC1)O | C27H33N7O2
